US08071768B2
d. 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (6-cyclobutoxy-pyridin-3-yl)-amide
A mixture of 6,7-dimethoxy-4-piperidin-4-yl-quinazoline (114.1 mg, 418 μmol), as prepared in Example 1d, (6-cyclobutoxy-pyridin-3-yl)-carbamic acid 4-nitro-phenyl ester (151 mg, 459 μmol), as prepared in the preceding step, and DCM (818 μL) was treated with TEA (63 μL, 455 μmol) in one portion, and stirred under air at 45° C. for 30 min. The reaction mixture was then directly applied to a flash silica column (3:4 hex/acetone) to provide the title compound as a foam (141.1 mg, 73%). This material was taken up in 2 M K2CO3 (2 mL) and extracted with DCM (2×2 mL). The combined organic layers were dried (Na2SO4), concentrated, and repurified with a silica flash column (9:2 EtOAc/acetone) to provide analytically pure title compound as an off-white foam (84.4 mg, 44%). 1H NMR (300 MHz, CDCl3) δ 9.08 (s, 1H), 7.97 (d, 1H), 7.77 (dd, 1H), 7.34 (s, 1H), 7.26 (s, 1H), 6.67 (d, 1H), 6.39 (br s, 1H), 5.11 (m, 1H), 4.32-4.22 (m, 2H), 4.07 (s, 3H), 4.06 (s, 3H), 3.60 (tt, 1H), 3.18 (td, 2H), 2.51-2.37 (m, 2H), 2.24-1.94 (m, 6H), 1.89-1.57 (m, 2H). LC-MS (ESI): calcd mass 463.2, found 464.3 (MH+). Anal. Calcd for C25H29N5O4: C, 64.78; H, 6.31; N, 15.11. Found: C, 64.64; H, 6.24; N, 15.04.

reactant | 6,7-dimethoxy-4-piperidin-4-yl-quinazoline | 418 μmol, 114.1 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
reactant | (6-cyclobutoxy-pyridin-3-yl)-carbamic acid 4-nitro-phenyl ester | 459 μmol, 151 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC=1C=NC(=CC1)OC1CCC1)=O | C16H15N3O5
reactant | DCM | 818 μL | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (6-cyclobutoxy-pyridin-3-yl)-amide | 141.1 mg, 73% | C1(CCC1)OC1=CC=C(C=N1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C25H29N5O4
